US07115740B2
The mixture of 7-chloro-3-(4-methoxy-phenyl)-1-methyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidine-2-one (65 mg, 0.21 mmol) in aniline (1.0 mL) (Aldrich) was heated to 120° C. for 1 hour. After cooling, the reaction mixture was washed with hexanes (100 mL×4) and the crude product was re-crystallized from ethyl acetate-hexanes to give 3-(4-methoxy-phenyl)-1-methyl-7-phenylamino-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidine-2-one as an off-white solid. (Yield 76.0 mg, 98.7%).

reactant | 7-chloro-3-(4-methoxy-phenyl)-1-methyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidine-2-one | 0.21 mmol, 65 mg | ClC1=NC=C2C(=N1)N(C(N(C2)C2=CC=C(C=C2)OC)=O)C | C14H13ClN4O2
solvent | aniline | 1.0 mL | NC1=CC=CC=C1 | C6H7N
product | 3-(4-methoxy-phenyl)-1-methyl-7-phenylamino-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidine-2-one | COC1=CC=C(C=C1)N1C(N(C2=NC(=NC=C2C1)NC1=CC=CC=C1)C)=O | C20H19N5O2
